US05135945
3,4-DIHYDRO-2-(2-DIMETHYLAMINOETHYL)-2,5,7,8-TETRA-METHYL-2H-1-BENZOPYRAN-6-OL HYDROCHLORIDE
A mixture of 12.53 g of 3,4-dihydro-2-(2-bromoethyl)-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol and liquid dimethylamine in 50 ml of dimethylformamide is stirred at room temperature for 16 hours. Water is added and the product is extracted with ethyl ether. The extract is washed with water, dried over anhydrous sodium sulfate, filtered and evaporated. One equivalent of hydrochloride acid in isopropanol is added and the resulting precipitate is recrystallized twice from isopropanol/water to yield 9.44 g of the title compound, m.p. >300° C.

reactant | 3,4-dihydro-2-(2-bromoethyl)-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol | 12.53 g | BrCCC1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C | C15H21BrO2
reactant | dimethylamine | CNC | C2H7N
reactant | Water | O | H2O
reactant | hydrochloride | One equivalent | Cl | ClH
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | isopropanol | C(C)(C)O | C3H8O
product | 3,4-DIHYDRO-2-(2-DIMETHYLAMINOETHYL)-2,5,7,8-TETRA-METHYL-2H-1-BENZOPYRAN-6-OL HYDROCHLORIDE | 9.44 g | Cl.CN(CCC1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C)C | InChI=1S/C17H27NO2.ClH/c1-11-12(2)16-14(13(3)15(11)19)7-8-17(4,20-16)9-10-18(5)6;/h19H,7-10H2,1-6H3;1H
